US04022900
5-(3,4,5-Trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline (M-20)
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline (3.76 g) was dissolved in anhydrous benzene (100 ml) and treated with 3,4,5-trimethoxybenzoyl chloride (5 g) under reflux for 16 hours in the presence of 0.25 g of anhydrous potassium bicarbonate. The precipitated solid was filtered and washed with sodium carbonate solution. The solid was recrystallized from benzene to yield 4.04 g of fine needles; mp 142.8-143.1° C.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | 3.76 g | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 3,4,5-trimethoxybenzoyl chloride | 5 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | potassium bicarbonate | 0.25 g | C([O-])(O)=O.[K+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 5-(3,4,5-Trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 4.04 g | COC=1C=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C=C(C1OC)OC | C20H24N2O4
